US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-1-butyl-3-methylxanthine
A solution of 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine (612 mg), potassium carbonate (228 mg) and butyl iodide (430 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:1) and recrystallized from ethyl acetate to provide the title compound as colorless solid (147 mg).

reactant | 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine | 612 mg | CN1C(NC(C=2N(C=NC12)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)=O)=O | C20H15ClN4O3
reactant | potassium carbonate | 228 mg | C([O-])([O-])=O.[K+].[K+]
reactant | butyl iodide | 430 mg | C(CCC)I | C4H9I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-1-butyl-3-methylxanthine | 147 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)CCCC)=O)C)C=C2)C=C1 | C24H23ClN4O3
